US04188390
4-Amino-2-chloro-6,7-diethoxyquinazoline (0.33 g.) and N-(1,4-benzodioxan-2-carbonyl)piperazine (0.32 g.) were heated under reflux in n-butanol (30 ml.) overnight. The mixture was then evaporated in vacuo and the residue partitioned between sodium carbonate solution and chloroform. The combined chloroform extracts were washed with water, dried (Na2SO4), evaporated in vacuo and the residue chromatographed on silica gel (70 g.) using chloroform/methanol (0-5%) as eluent. Similar fractions were combined, evaporated in vacuo then redissolved in chloroform/methanol and treated with ethereal hydrogen chloride. The solution was then evaporated in vacuo and the residue recrystallized from isopropanol to give 4-amino-2-[4-(1,4-benzodioxan-2-carbonyl)piperazin-1-yl]-6,7-diethoxyquinazoline hydrochloride.2 1/2 hydrate (0.19 g.), m.p. 180°-184° C. (decomp.)

reactant | 4-Amino-2-chloro-6,7-diethoxyquinazoline | 0.33 g | NC1=NC(=NC2=CC(=C(C=C12)OCC)OCC)Cl | C12H14ClN3O2
reactant | N-(1,4-benzodioxan-2-carbonyl)piperazine | 0.32 g | O1C(COC2=C1C=CC=C2)C(=O)N2CCNCC2 | C13H16N2O3
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
product | 4-amino-2-[4-(1,4-benzodioxan-2-carbonyl)piperazin-1-yl]-6,7-diethoxyquinazoline hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OCC)OCC)N1CCN(CC1)C(=O)C1COC2=C(O1)C=CC=C2 | InChI=1S/C25H29N5O5.ClH/c1-3-32-20-13-16-17(14-21(20)33-4-2)27-25(28-23(16)26)30-11-9-29(10-12-30)24(31)22-15-34-18-7-5-6-8-19(18)35-22;/h5-8,13-14,22H,3-4,9-12,15H2,1-2H3,(H2,26,27,28);1H
